US04677129
1-(4-methanesulphonylaminophenyl)-3-n-propyl-3-azabicyclo[3.1.1]heptane-2,4-dione
A solution of 0.31 ml of methanesulphonic acid chloride in 3 ml of methylene chloride is added at room temperature to a solution of 1.03 g of 1-(4-aminophenyl)-3-n-propyl-3azabicyclo[3.1.1]heptane-2,4-dione and 24 mg of 4-dimethylaminopyridine in 10 ml of pyridine. After stirring for 5 hours, 50 ml of water are added, and the mixture is left to stand overnight at 0°-5°. Extraction is carried out with methylene chloride, and the organic phase is washed in succession with water, cold 2N hydrochloric acid, water, semi-saturated bicarbonate solution and water. After drying over magnesium sulphate, the mixture is filtered and concentrated by evaporation, and the residue is recrystallised from methanol. The title compound is obtained in the form of white crystals having a melting point of 159°-160°. Rf (hexane/ethyl acetate 1:1)=0.15.

reactant | methanesulphonic acid chloride | 0.31 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-(4-aminophenyl)-3-n-propyl-3azabicyclo[3.1.1]heptane-2,4-dione | 1.03 g | NC1=CC=C(C=C1)C12C(N(C(C(C1)C2)=O)CCC)=O | C15H18N2O2
reactant | water | 50 ml | O | H2O
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 24 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1-(4-methanesulphonylaminophenyl)-3-n-propyl-3-azabicyclo[3.1.1]heptane-2,4-dione | CS(=O)(=O)NC1=CC=C(C=C1)C12C(N(C(C(C1)C2)=O)CCC)=O | C16H20N2O4S
